US08895580B2
Step 4: Preparation of 5-[(5-bromopyridin-2-yl)methyl]-2-(2-methylphenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
1-[(5-Bromopyridin-2-yl)methyl]-4-chloro-3-(ethoxycarbonyl)quinolinium salt (1.55 g, 3.51 mmol), potassium carbonate (2.63 g, 19.1 mmol, 5.4 equiv), and (2-methylphenyl)hydrazine hydrochloride (1.33 g, 8.38 mmol, 2.4 equiv) were combined in a mixture (1:1) of N,N-dimethylformamide:1,2-dimethoxyethane (25 mL) and placed into an oil bath preheated at 80° C. for 3 hours. The mixture was cooled to ambient temperature, poured into water (100 mL) and extracted with dichloromethane (2×100 mL). The combined organic extracts were dried with sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 90:10; dichloromethane:methanol), providing the titled compound as a yellow solid: 1H-NMR (400 MHz, CD3OD) δ 8.97 (1H, s), 8.59 (1H, s), 8.33 (1H, d, J=7.8 Hz), 8.02-8.00 (1H, m), 7.78 (1H, d, J=9.0 Hz), 7.66-7.56 (2H, m), 7.48-7.37 (5H, m), 5.85 (2H, s), 2.28 (3H, s), ppm; low resolution mass spectrometry (ES+) m/z 446.8 [(M+H)+; calculated for C23H17BrN4O: 446.3].

reactant | 1-[(5-Bromopyridin-2-yl)methyl]-4-chloro-3-(ethoxycarbonyl)quinolinium | 3.51 mmol, 1.55 g | BrC=1C=CC(=NC1)C[N+]1=CC(=C(C2=CC=CC=C12)Cl)C(=O)OCC
reactant | potassium carbonate | 19.1 mmol, 2.63 g, 5.4 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | (2-methylphenyl)hydrazine hydrochloride | 8.38 mmol, 1.33 g, 2.4 equiv | Cl.CC1=C(C=CC=C1)NN
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
product | 5-[(5-bromopyridin-2-yl)methyl]-2-(2-methylphenyl)-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | BrC=1C=CC(=NC1)CN1C=C2C(C=3C=CC=CC13)=NN(C2=O)C2=C(C=CC=C2)C | C23H17BrN4O
